US09375010B2
To a solution of 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-1,2,4-oxadiazol-5(4H)-one (1 g, 3.21 mmol, 1 eq.) in MeCN (50 ml) and DMF (10 ml) was added potassium carbonate (532 mg, 3.85 mmol, 1.2 eq.) followed by iodomethane (547 mg, 3.85 mmol, 1.2 eq.). The reaction was stirred at room temperature overnight. The reaction was quenched by addition of water and extracted with EtOAc (3×50 ml). The organics were combined, washed with aq. sat. NaCl, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-4-methyl-1,2,4-oxadiazol-5(4H)-one (906 mg, 85% yield) has a white solid.

reactant | 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-1,2,4-oxadiazol-5(4H)-one | 3.21 mmol, 1 g, 1 eq. | NC1=CC=CC(=N1)CO\N=C(/C1=NOC(N1)=O)\C1=CC=CC=C1 | C15H13N5O3
reactant | potassium carbonate | 3.85 mmol, 532 mg, 1.2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3.85 mmol, 547 mg, 1.2 eq. | IC | CH3I
solvent | MeCN | 50 ml | CC#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-4-methyl-1,2,4-oxadiazol-5(4H)-one | 906 mg, 85% yield | NC1=CC=CC(=N1)CO\N=C(/C1=NOC(N1C)=O)\C1=CC=CC=C1 | C16H15N5O3
